data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2365,"CC1CCC(C2=CC=CC=C2)[CH:1]=[C:2]1C.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3410,"BrC1=C[CH:1]=[CH:2]O1.C[CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,8549,"C=C(C)C[Si](C)(C)C.C[Si](C)(C)[O+:1](C)[CH:2](C1=CC=CC=C1)[O:3]C.O=S(=O)([O-])C(F)(F)F|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5285,"C1CCC2=[N+:1]([H:2])CCCN2CC1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8629,"CC=CC1CCC[C:1](C)([H:2])[CH:3]1[N+:4](C)(C)C.[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6159,"CC1(C)C2CCC1(C)C1(C3=CC=CC=C3)C2[O:1]1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7923,"CC[CH:1]=[OH+:2].[CH2:3]=[CH:4][OH:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4670,"N#[N+]C1=C([N:1]=[N:2][OH2+:3])C=CC=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7274,"NC1=[C-:1]C=CC=N1.[H:2][NH2:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6527,"COC(O)(C1CC(O)CN1C(=O)OCC1=CC=CC=C1)[OH:1].C[OH+:2][H:3].O=S(=O)([O-])O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3527,"COC1=C(O)C=CC(CC(C(=O)[O][Na])C(CO)[CH:1]([C:2]2=[CH:3][C:4](OC)=[C:5]([O-:6])C=C2)[OH:7])=C1|(6, 5);((5, 4), 3);((3, 2), 1);((1, 7), 7)"
train,pmechdb_split_0,0,2754,"CCO.NC1=N[C:1](=[NH2+:2])[C:3](=[CH:4][O:5][H:6])C=C1.O.[Na+].[OH-:7]|(7, 6);((6, 5), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8024,"BrC(Br)Br.ClC1=CC=C(C=C[CH2:1][O:2][P+:3](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.[Br-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,6402,"CCC(=[NH+]CCC1=CC=CC=C1)O[P:1](Cl)(Cl)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,966,"CC[CH:1](C)[Br:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6957,"C[C:1](=[CH2:2])[O-:3].[CH2:4]=[O:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6278,"CC[NH2+:1][C:2](C)(N)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2659,"CO[C:1](C)([NH2+:2]C)[O:3]C.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4828,"Cl[P:1](Cl)Cl.[Br][Mg+:2]|(1, 2)"
train,pmechdb_split_0,0,2116,"CO[PH+:1](OC)[O:2][CH3:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,5774,"CN(C)C=O.O=C(C[N+:1]1([H:2])CCN(C2=CC(Cl)=C(Cl)C=C2)CC1)C1=CC=C(C2=CC=CC=C2)C=C1.O=C([O-])[O-:3].[Cl-].[K+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5810,"CCC(C)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3403,"OCC1O[CH:1]([OH2+:2])C(O)C(O)C1O|((1, 2), 2)"
train,pmechdb_split_0,0,9902,"O=S(=O)(O)C1=CC=C2C=C[CH:1]=[CH:2]C2=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2999,"CC(=O)O.CC(=O)[O-:1].COC1=NC(C2=CN(COCC[Si](C)(C)C)C3=C2C2CC(OC)(C[C:2]([H:3])([O:4][I+:5]4(OC(C)=O)OC(=O)C5=C4C=CC=C5)C2C)C3=O)=CN=C1C1=CN(S(=O)(=O)C2=CC=C(C)C=C2)C2=CC(Br)=CC=C12|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5206,"CC(=O)OCC1OC=CC(OC(C)=[O:1])C1OC(C)=O.C[Si:2](C)(C)OS(=O)(=O)C(F)(F)F|(1, 2)"
train,pmechdb_split_0,0,9677,"CBr.CN1CCC23C4=C5C=CC([O:1][B-:2](O)(Br)Br)=C4OC2C(=O)CCC3(O)C1C5.O|((2, 1), 1)"
train,pmechdb_split_0,0,8485,"C1CS[CH-:1]SC1.[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,7438,"C[N+:1](C)=[CH2:2].[F-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6629,"C[Si:1](C)(C)Cl.C[Si](C)(C)N[Si](C)(C)C.C[Si](C)(C)OC(=O)CCl.O=[PH](CCCCC1=CC=CC=C1)[O-:2].[Cl-]|(2, 1)"
train,pmechdb_split_0,0,9144,"C=CCOC(=O)CC1=CC=C(C2=CC=C(OCC3=CC=C(C(F)(F)F)C(OCC=C)=C3C(=O)[O:1][H:2])C=C2)C=C1.CC(C)O[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCOC(=O)N[N-:3]C(=O)OCC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1079,"O=S(=O)(O)[O:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5587,"C[N:1]1CCC23C4=C5OC2C(O)C=CC3C1CC4=CC=C5O.O=P(O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2129,"CO[C:1](C)([OH:2])[SH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6152,"[C-]#CC[O:1][Si-:2](C)(C)(C)F|((2, 1), 1)"
train,pmechdb_split_0,0,1467,"CCOC(C)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7651,"CCC1=C(O)C=C(C=O)C=C1.CO.COC(=O)C[CH:1]([H:2])[C:3](OC)=[O:4].C[O:5][Na]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4572,"C=C(C1=CC=CC=C1)C1(OCC)CCCC1[N+:1](C)(C(=O)OC1=CC=CC=C1)[CH3:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6280,"C=CC[O-:1].CCC.[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,4850,"CCOC(=O)C(C(C)=O)C(C(=O)OCC)[C:1](C)=[O:2].CO.[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9837,"CCC1CCC[C:1](C)([H:2])[CH:3]1[Cl:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7136,"CCOCC.O=C1C=CC(O[B-](F)(F)F)([O+:1](CC(CO)(C2=CC=CC=C2)C2=CC=CC=C2)[H:2])C1.OCC(C[OH:3])(C1=CC=CC=C1)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7284,"CC(=O)O.CN1CC[C:1](=[O:2])CC1.O=S(=O)(C1=CC=CC=C1)N1C2=NC=CC(Cl)=C2C2=C1C=CC(C1=CC=C(N3CC[NH:3]CC3)C=C1)=C2|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6069,"C[CH:1]([N:2](C)C)[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7388,"CCC[CH2][Al:1]([CH2]C(C)C)[CH2]C(C)C.[Li][O:2]C(C)C=CC1=CC=CC=C1|(2, 1)"
